US06953797B2
c) 4-Chloro-2-[(3-hydroxy-1-phenylpropyl)methylamino]benzonitrile
To a stirred suspension of sodium hydride (60% dispersion, 270 mg, 6.75 mmol) in dry tetrahydrofuran (20 ml) under nitrogen and at 0° C. was added 4-chloro-2-[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-phenylpropyl]amino]benzonitrile (2.3 g, 5.74 mmol) in tetrahydrofuran (10 ml). The resulting yellow suspension was stirred at room temperature for 2 h, and then treated with methyl iodide (3.6 ml, 57.4 mmol). The resulting mixture was heated under reflux for 10 h, and then treated with acetic acid (10 ml) and water (2 ml). Heating and stirring were continued overnight. The mixture was concentrated under vacuum and the residue partitioned between water (50 ml) and ethyl acetate (100 ml). The organic extract was collected and dried over magnesium sulphate. After concentration of the extract the residue was purified on silica gel using 80% isohexane/diethyl ether as eluent. The title compound was isolated as a colourless oil (1 g, 58%).

reactant | sodium hydride | 6.75 mmol, 270 mg | [H-].[Na+]
reactant | 4-chloro-2-[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-phenylpropyl]amino]benzonitrile | 5.74 mmol, 2.3 g | ClC1=CC(=C(C#N)C=C1)NC(CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C22H29ClN2OSi
reactant | methyl iodide | 57.4 mmol, 3.6 ml | CI | CH3I
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4-Chloro-2-[(3-hydroxy-1-phenylpropyl)methylamino]benzonitrile | ClC1=CC(=C(C#N)C=C1)N(C)C(CCO)C1=CC=CC=C1 | C17H17ClN2O
